US08461181B2
A mixture of 0.44 g of N1-propyl-4-trifluoromethylbenzene-1,2-diamine, 0.51 g of isonicotinealdehyde-bisulfite adduct and 4 ml of N,N-dimethylformamide was stirred for 1 hour at 150° C. The reaction mixture was allowed to cool to room temperature, and water was poured into this, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, then, concentrated under reduced pressure to obtain a solid residue. The residue was washed with hexane, to obtain 0.55 g of 1-propyl-2-(pyridin-4-yl-)-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 218).

reactant | N1-propyl-4-trifluoromethylbenzene-1,2-diamine | 0.44 g | C(CC)NC=1C(=CC(=CC1)C(F)(F)F)N | C10H13F3N2
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-propyl-2-(pyridin-4-yl-)-5-trifluoromethyl-1H-benzimidazole | 0.55 g | C(CC)N1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=CC=NC=C2 | C16H14F3N3
